US06297329B1
Preparation of 1,4-diethyl-2,6,7-trioxabicyclo[2.2.2]octane (BOE 2)
Into a flask as specified in Example 1 were charged 529 g of triethyl orthopropionate, 402 g of trimethylol propane, 330 g of diethylene glycol dimethyl ether, and 0.9 g of PTSA. The mixture was heated for 0.5 hour at 140° C., with 402 g of ethanol being distilled off. The temperature was lowered to 100° C., and the remaining diethylene glycol dimethyl ether was distilled off under reduced pressure. The residue was subjected to vacuum distillation. The fraction having a boiling temperature of 54° C. at a pressure of 0.5 mbar yielded 370 g of clear, low-viscous liquid having a boiling point of 223° C. at atmospheric pressure and with the following structure

reactant | triethyl orthopropionate | 529 g | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | trimethylol propane | 402 g | C(O)C(CC)(CO)CO | C6H14O3
reactant | diethylene glycol dimethyl ether | 330 g | COCCOCCOC | C6H14O3
reactant | PTSA | 0.9 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | 402 g | C(C)O | C2H6O
product | 1,4-diethyl-2,6,7-trioxabicyclo[2.2.2]octane | C(C)C12OCC(CO1)(CO2)CC | C9H16O3
